### PR TITLE
inr/inl_inj

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

These are easy lemmas coming from this MathComp-Analysis PR
https://github.com/math-comp/analysis/pull/912

We PR them to MathComp so as to be able to put them 
directly into `mathcomp_extra.v` on the MathComp-Analysis side
(and thus avoid the `unstable.v` staging phase).

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: ssreflect/ssrfun.v [hunk 1]
```diff
@@ -94,3 +94,9 @@ Definition idempotent_op (S : Type) (op : S -> S -> S) := forall x, op x x = x.
 Notation idempotent:= idempotent_op (only parsing).
 
 Definition idempotent_fun (U : Type) (f : U -> U) := f \o f =1 f.
+
+Lemma inr_inj {A B} : injective (@inr A B).
+Proof. by move=>  ? ? []. Qed.
```
Comment (proux01) [inline ssreflect/ssrfun.v:99]: Maybe
```suggestion
Lemma inr_inj {A B} : injective (@inr A B). Proof. by move=> ? ? []. Qed.
```

File: ssreflect/ssrfun.v [hunk 2]
```diff
@@ -94,3 +94,9 @@ Definition idempotent_op (S : Type) (op : S -> S -> S) := forall x, op x x = x.
...
+
+Lemma inl_inj {A B} : injective (@inl A B).
+Proof. by move=>  ? ? []. Qed.
```
Comment (proux01) [inline ssreflect/ssrfun.v:102]:
```suggestion
Proof. by move=> ? ? []. Qed.
```

**Review by proux01 — APPROVED** [review]
some bikeshedding

**Comment by proux01** [comment]
@affeldt-aist could you please do the backporting PR on Rocq (I'll then be able to merge it)

**Comment by affeldt-aist** [comment]
> @affeldt-aist could you please do the backporting PR on Rocq (I'll then be able to merge it)

ok, I'll do that asap
